US06441017B1
Step E: 3-(tert-Butyldimethylsilyloxy)-5-nitroquinoline
3-Hydroxy-5-nitroquinoline, as described above in Step D, (2.86 g, 15.04 mmol), tert-butyldimethylsilyl chloride (2.95 g, 19.55 mmol) and imidazole (3.07 g, 45.12 mmol) were dissolved in DMF (20 mL) and stirred for 2 hours. The reaction mixture was poured into H2O and extracted with Et2O (2×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | 3-Hydroxy-5-nitroquinoline | OC=1C=NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H6N2O3
reactant | tert-butyldimethylsilyl chloride | 15.04 mmol, 2.86 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 45.12 mmol, 3.07 g | N1C=NC=C1 | C3H4N2
reactant | H2O | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(tert-Butyldimethylsilyloxy)-5-nitroquinoline | [Si](C)(C)(C(C)(C)C)OC=1C=NC2=CC=CC(=C2C1)[N+](=O)[O-] | C15H20N2O3Si
